US06835686B2
A mixture of 180 parts of trans-1,2-epoxidodecane, 6 parts of calcium hydroxide and 0.3 parts of o-hydroxyacetophenone was refluxed at 210-220° C. for 3 hours in a three-necked flask equipped agitator, Dean-Stark trap, and temperature probe. After cooling and filtration 175 parts of the mixture containing 15% starting epoxide and 74% cyclododec-2-en-1-ol (85% conversion, 87% selectivity) was obtained.

reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | o-hydroxyacetophenone | OC1=C(C=CC=C1)C(C)=O | C8H8O2
product | cyclododec-2-en-1-ol | C1(C=CCCCCCCCCC1)O | C12H22O
